US08003806B2
(2Z)-3-(1H-Benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoic acid
A solution of ethyl (2Z)-3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate (60 mg, 187 μmol) in hydrochloric acid (10 mL of a 5N solution) was stirred at room temperature for 72 hours, and then heated at reflux for 6 hours. The solution was cooled to room temperature, and evaporated in vacuo to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=6.63 min, MH+ 294].

reactant | ethyl (2Z)-3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate | 187 μmol, 60 mg | N1(C=NC2=C1C=CC=C2)\C(=C/C(=O)OCC)\C2=CC=C(C=C2)CC | C20H20N2O2
solvent | hydrochloric acid | Cl | ClH
product | (2Z)-3-(1H-Benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoic acid | N1(C=NC2=C1C=CC=C2)\C(=C/C(=O)O)\C2=CC=C(C=C2)CC | C18H16N2O2
